US04885302
(d) [1-(3-Methylbenzoyl)-4-piperidyl]methyl 4-methylbenzenesulphonate
53.3 g (0.28 mol) of 4-methylbenzenesulphonyl chloride in 60 ml of pyridine are added to a solution of 52 g (0.22 mol) of 1-(3-methylbenzoyl)-4-piperidinemethanol in 100 ml of pyridine. The mixture is stirred at 20° C. for 4 h, and then poured into ice. The phase is extracted with dichloromethane, and the organic phase washed with 10 N aqueous hydrochloric acid solution and dried over magnesium sulphate. The solvents are evaporated off under reduced pressure and 70 g of white solid are obtained.

reactant | 4-methylbenzenesulphonyl chloride | 0.28 mol, 53.3 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 1-(3-methylbenzoyl)-4-piperidinemethanol | 0.22 mol, 52 g | CC=1C=C(C(=O)N2CCC(CC2)CO)C=CC1 | C14H19NO2
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | [1-(3-Methylbenzoyl)-4-piperidyl]methyl 4-methylbenzenesulphonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1CCN(CC1)C(C1=CC(=CC=C1)C)=O | C21H25NO4S
